US07550478B2
Step 10: N-(1,4-dioxan-2-ylmethyl)-N′-[6-fluoro-3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]-N-methylsulfamide
To a stirred solution of N′-(3-chloro-6-fluoro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-(1,4-dioxan-2-ylmethyl)-N-methylsulfamide (127 mg, 0.271 mmol) in DMF (7 mL) were added 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (113 mg, 0.543 mmol), tri-t-butylphosphonium tetraflroroborate (16 mg, 0.054 mmol), potassium fluoride (52 mg, 0.896 mmol), and Pd2(dba)3 (25 mg, 0.027 mmol). The reaction mixture was purged with N2 for 5 min, heated to 130 C for 9 h, cooled to room temperature, treated with water, and extracted with CH2Cl2 (×3). The combined organics were dried (Na2SO4), concentrated, and purified by prep-HPLC to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 8.99 (d, 1H); 8.31 (d, 1H); 7.91 (s, 1H); 7.90 (m, 2H); 7.81 (s, 1H); 7.36 (d, 1H); 7.26 (d, 1H); 7.17 (d, 1H); 4.00 (s, 3H); 3.64-4.00 (series of m, 7H); 3.36 (dd, 1H); 3.09 (dd, 1H); 2.99 (s, 3H). LRMS (ESI) calc'd for (C24H24F5O5S) [M+H]+, 514.1; found 514.1.

reactant | N′-(3-chloro-6-fluoro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-(1,4-dioxan-2-ylmethyl)-N-methylsulfamide | 0.271 mmol, 127 mg | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C(=C(C=C1)NS(=O)(=O)N(C)CC1OCCOC1)F | C20H19ClFN3O5S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.543 mmol, 113 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | tri-t-butylphosphonium | 0.054 mmol, 16 mg | C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | potassium fluoride | 0.896 mmol, 52 mg | [F-].[K+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 0.027 mmol, 25 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(1,4-dioxan-2-ylmethyl)-N′-[6-fluoro-3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]-N-methylsulfamide | O1C(COCC1)CN(S(=O)(=O)NC=1C=CC2=C(C(C=3C(=NC=C(C3)C=3C=NN(C3)C)C=C2)=O)C1F)C | C24H24FN5O5S
